US07517873B2
To a mixture of 2.0 g (0.0108 mole) of 3-cyclopentylamino-propanoic acid ethyl ester and 10 mL of anhydrous tetrahydrofuran, at −78 degrees, was added 24.0 mL (0.0236 mole) of lithium bis(trimethylsilyl)amide. The mixture was stirred for 1 hour and then a solution of 2.0 g (0.0119 mole) of iodopropane in 2.0 mL of tetrahydrofuran was added slowly. The mixture was stirred at room temperature for 24 hours and then quenched by the addition of water. The mixture was concentrated under reduced pressure and then extracted three times with 50 mL of ethyl acetate. The combined extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 1.2 g of (rac)-2-cyclopentylaminomethyl-pentanoic acid ethyl ester, which was used without further purification in subsequent steps.

reactant | 3-cyclopentylamino-propanoic acid ethyl ester | 0.0108 mole, 2.0 g | C(C)OC(CCNC1CCCC1)=O | C10H19NO2
reactant | lithium bis(trimethylsilyl)amide | 0.0236 mole, 24.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | iodopropane | 0.0119 mole, 2.0 g | ICCC | C3H7I
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (rac)-2-cyclopentylaminomethyl-pentanoic acid ethyl ester | 1.2 g | C(C)OC(C(CCC)CNC1CCCC1)=O | C13H25NO2
